US06410585B1
5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and D-leucinol (37 uL) according to Method A to give the title compound (51 mg). 1H-NMR (400 MHz, CD3OD) d 7.79 (s, 1H), 7.44 (d, J=8.1 Hz, 1H), 7.29-7.18 (m, 5H), 7.04 (d, J=8.5 Hz, 1H), 4.80 (s, 2H), 4.55 (t, J=7.0 Hz, 1H), 4.25 (dd, J=4.8 Hz, J=9.5 Hz, 1H), 3.86 (m, 1H), 2.75 (dd, J=9.5 Hz, J=13.5 Hz, 1H), 1.35 (s, 9H), 0.82 (m, 6H); IR (KBr) 3312, 2958, 1639 cm−1; HRMS m/z 629.2926 (calc. of monoisotopic mass for C32H43N3O10 gives 629.2948).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | D-leucinol | 37 uL | N[C@H](CC(C)C)CO | C6H15NO
product | 5-((2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid | 51 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)N[C@H](CC(C)C)CO)CC1=CC=CC=C1 | C32H43N3O10
